US07041685B2
5-(4-Chloro-phenyl)-2-(3-chloro-thiophen-2-yl)-[1,3,4]-oxadiazole
4-Chloro-benzoic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide: The title compound was prepared from 3-chloro-thiophene-2-carbonyl hydrazide (70 mg, 0.40 mmol) and 4-chlorobenzoyl chloride (50.5 μL, 0.40 mmol) similar to Example 84b, and yielded 130 mg (100%) of white solid. 1H NMR (DMSO-d6): 10.66 (s, 1H), 10.30 (s, 1H), 7.93 (m, 3H), 7.61 (d, J=8.79 Hz, 1H), 7.22 (d, J=5.22 Hz, 1H).

reactant | 4-Chloro-benzoic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide | ClC1=C(SC=C1)C(=O)NNC(C1=CC=C(C=C1)Cl)=O | C12H8Cl2N2O2S
reactant | 4-chlorobenzoyl chloride | 0.40 mmol, 50.5 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 5-(4-Chloro-phenyl)-2-(3-chloro-thiophen-2-yl)-[1,3,4]-oxadiazole | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1SC=CC1Cl | C12H6Cl2N2OS
